US04866091
A mixture of 3-(2,4-difluorophenoxy)-4-nitrobenzamide (1 g), iron powder (1 g), and ammonium chloride (0.1 g) in ethanol (20 ml) and water (10 ml) was refluxed with stirring for an hour. The insoluble materials were filtered off and the filtrate was concentrated under reduced pressure to give pale yellow crystals of 4-amino-3-(2,4-difluorophenoxy)benzamide (0.82 g).

reactant | 3-(2,4-difluorophenoxy)-4-nitrobenzamide | 1 g | FC1=C(OC=2C=C(C(=O)N)C=CC2[N+](=O)[O-])C=CC(=C1)F | C13H8F2N2O4
reactant | ammonium chloride | 0.1 g | [Cl-].[NH4+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
catalyst | iron | 1 g | [Fe] | Fe
product | 4-amino-3-(2,4-difluorophenoxy)benzamide | 0.82 g | NC1=C(C=C(C(=O)N)C=C1)OC1=C(C=C(C=C1)F)F | C13H10F2N2O2
